US05382590
The procedure is analogous to that described in Example 23, but 3.1 g of N-[2-oxo-2-(1,2,3,4-tetrahydro-1-quinolyl)ethyl]-N-phenyl-2-phthalimidoacetamide, 0.69 g of hydrazine hydrate and 0.91 g of 3-methylphenyl isocyanate are used as the starting material. The product obtained is purified by chromatography on 25 g of silica (0.065-0.200 mm) contained in a column 1.7 cm in diameter [eluent: methylene chloride/ethyl acetate (80-20 by volume)], collecting 25 cm3 fractions. Fractions 12 to 23 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization from ethyl acetate, 0.9 g of 2-[3-(3-methylphenyl)ureido]-N-[2-oxo-2-(1,2,3,4-tetrahydro-1-quinolyl)ethyl]-N-phenylacetamide melting at 167° C. is obtained.

reactant | N-[2-oxo-2-(1,2,3,4-tetrahydro-1-quinolyl)ethyl]-N-phenyl-2-phthalimidoacetamide | 3.1 g | O=C(CN(C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)C2=CC=CC=C2)N2CCCC1=CC=CC=C21 | C27H23N3O4
reactant | hydrazine hydrate | 0.69 g | O.NN
reactant | 3-methylphenyl isocyanate | 0.91 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | 2-[3-(3-methylphenyl)ureido]-N-[2-oxo-2-(1,2,3,4-tetrahydro-1-quinolyl)ethyl]-N-phenylacetamide | 0.9 g | CC=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)CC(N1CCCC2=CC=CC=C12)=O)=O | C27H28N4O3
